US05646146
9-Hydroxy-9-phenyl-9H-indeno[1,2-b]pyrazin-3(4H)-one
9H-Indeno[1,2-b]pyrazine-3,9(4H)-dione (2 g) was dissolved in dry THF (50 ml). Triethylamine (1.6 ml) was added and trimethylsilyl chloride (1.4 ml) dissolved in THF (10 ml) was added dropwise at room temperature. The mixture was stirred overnight and the precipitate filtered off. Phenylmagnesium bromide (20 mmol) in THF (10 ml) was subsequently added dropwise under nitrogen, and the resulting mixture stirred at room temperature for 3 days. Subsequent evaporation followed by addition of water and addition of HCl (1N) to slightly acidic solution resulted in precipitation of yellow crystals (2.7 g). The precipitate was purified on silica gel column using methylene chloride/methanol (9/1) as eluent resulting in 1.2 g pure title compound. M.p.>270° C. The MS showed the molecular ion 276. 1H-NMR (DMSO-d6, δ): 6.39 (s, 1H), 7.15-7.5 (m, 8H), 7.82 (s+m, 2H), 12.6 (s, 1H).

reactant | 9H-Indeno[1,2-b]pyrazine-3,9(4H)-dione | 2 g | N=1C2=C(NC(C1)=O)C=1C=CC=CC1C2=O | C11H6N2O2
reactant | Triethylamine | 1.6 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 1.4 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | Phenylmagnesium bromide | 20 mmol | C1(=CC=CC=C1)[Mg]Br
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 9-Hydroxy-9-phenyl-9H-indeno[1,2-b]pyrazin-3(4H)-one | 2.7 g | OC1(C=2C=CC=CC2C=2NC(C=NC21)=O)C2=CC=CC=C2 | C17H12N2O2
